US08791107B2
2-(1H-indol-4-yl)-5-tosyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-tosyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x11, 68 mg, 0.179 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (87 mg, 0.357 mmol) and PdCl2(dppf) (6.53 mg, 8.93 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.35-2.41 (m, 3H), 2.55-2.66 (m, 1H), 2.68-2.76 (m, 1H), 2.97-3.09 (m, 1H), 3.17-3.27 (m, 1H), 3.82-3.98 (m, 2H), 4.16-4.27 (m, 1H), 4.53-4.63 (m, 1H), 4.57-4.57 (m, 1H), 7.14-7.24 (m, 1H), 7.23-7.31 (m, 1H), 7.38-7.50 (m, 3H), 7.51-7.63 (m, 3H), 8.00-8.10 (m, 1H), 8.48-8.58 (m, 1H), 11.19-11.35 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C24H23N5O3S, 462.15. found 462.4.

reactant | 2-chloro-5-tosyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.179 mmol, 68 mg | ClC1=NC=2N3C(CN(C2C=N1)S(=O)(=O)C1=CC=C(C)C=C1)COCC3 | C16H17ClN4O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.357 mmol, 87 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 8.93 μmol, 6.53 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1H-indol-4-yl)-5-tosyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)S(=O)(=O)C1=CC=C(C)C=C1)COCC3 | C24H23N5O3S
